US07279580B2
2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol, 4acetylbenzeneboronic acid and potassium phosphate were placed in a dry tube with 1,4dioxane/water (3:1) and this was heated to 70° C. under nitrogen. Tris(dibenzylideneacetone)dipalladium(0), tri-tert-butylphosphine (0.2M in 1,4dioxane) and 1,4-dioxane (0.5 ml) were mixed in a vial, and this mixture was added to the hot reaction via syringe. The resulting reaction mixture was heated at 70° C. for 12 h. The reaction was allowed to cool to room temperature then partitioned between dichloromethane and 2N hydrochloric acid. The aqueous layer was filtered through glass microfibre filter paper and evaporated to dryness. The residue was dissolved in methanol and evaporated to dryness. The residue was dissolved in dimethylsulfoxide (˜25 mg/ml), filtered through glass microfibre filter paper and purified by LC-MS. Appropriate fractions were combined and evaporated to give 1-{2′-fluoro-5′-[8-fluoro-7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyridin-3-yl]biphenyl-4-yl}ethanone as an off-white solid (6 mg, 5%); m/z (ES+) 407 [MH+].

reactant | 2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol | ClC=1C=C(C=CC1F)C1=CN=C2N1C=CC(=C2F)C(C)(C)O | C16H13ClF2N2O
reactant | 4acetylbenzeneboronic acid | C(C)(=O)C1=CC=C(C=C1)B(O)O | C8H9BO3
reactant | potassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | tri-tert-butylphosphine | 0.2M | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | 1,4-dioxane | 0.5 ml | O1CCOCC1 | C4H8O2
solvent | 1,4dioxane water | O1CCOCC1.O
product | 1-{2′-fluoro-5′-[8-fluoro-7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyridin-3-yl]biphenyl-4-yl}ethanone | 6 mg, 5% | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=C2F)C(C)(C)O)C2=CC=C(C=C2)C(C)=O | C24H20F2N2O2
